US09233974B2
To a solution of 1-tert-butyl 2-ethyl 4,5-dimethyl-1H-pyrrole-1,2-dicarboxylate (4.016 g, 15.02 mmol) in EtOH (100 mL) was added Platinum on carbon (5%, 0.58 g). The slurry was stirred under an atmosphere of hydrogen (1 atm) for 3 days. The slurry was filtered through celite and washed with MeOH. The filtrate was concentrated and the crude was purified by column chromatography (SiO2, 5-10-20% EtOAc/Hexanes) to provide rel-(2S,4S,5S)-1-tert-butyl 2-ethyl 4,5-dimethylpyrrolidine-1,2-dicarboxylate.

reactant | 1-tert-butyl 2-ethyl 4,5-dimethyl-1H-pyrrole-1,2-dicarboxylate | 15.02 mmol, 4.016 g | CC=1C=C(N(C1C)C(=O)OC(C)(C)C)C(=O)OCC | C14H21NO4
solvent | EtOH | 100 mL | CCO | C2H6O
catalyst | Platinum on carbon | 0.58 g | [Pt] | Pt
product | rel-(2S,4S,5S)-1-tert-butyl 2-ethyl 4,5-dimethylpyrrolidine-1,2-dicarboxylate | C[C@H]1C[C@H](N([C@H]1C)C(=O)OC(C)(C)C)C(=O)OCC | C14H25NO4
